US07723368B2
Step 1: Synthesis of 4-(5-bromo-2-fluorophenyl)morpholine
To a CEM snap top microwave vial (10 ml) equipped with a magnetic stir bar (3×10 mm) was added 5-Bromo-2-fluoroaniline (1.00 g, 5.26 mmol), sodium iodide (2.37 gm, 15.8 mmol), potassium carbonate (1.45 gm, 10.5 mmol), and 2-chloroethyl ether (1.30 gm, 9.09 mmol) in dimethylformamide (6.5 mL). The reaction was capped and irradiated in a CEM Explorer microwave at 120° C. for 4 hours then forced air-cooled. Purification by column chromatography [default gradient (ISCO); EtOAc/hexanes] afforded 397 mg (29%) an oil; 1H NMR (400 MHz, DMSO-d6) δ ppm 3.00 (t, J=1.7 Hz, 4H) 3.69-3.73 (m, 4H) 7.10-7.15 (m, 3H); MS (EI) m/z 259.0 [M+·].

reactant | 5-Bromo-2-fluoroaniline | 5.26 mmol, 1.00 g | BrC=1C=CC(=C(N)C1)F | C6H5BrFN
reactant | sodium iodide | 15.8 mmol, 2.37 gm | [I-].[Na+]
reactant | potassium carbonate | 10.5 mmol, 1.45 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl ether | 9.09 mmol, 1.30 gm | ClCCOCCCl | C4H8Cl2O
solvent | dimethylformamide | 6.5 mL | CN(C=O)C | C3H7NO
product | 4-(5-bromo-2-fluorophenyl)morpholine | 397 mg, 29% | BrC=1C=CC(=C(C1)N1CCOCC1)F | C10H11BrFNO
